US09284284B2
a) [(2R,5R)-5-(6-Bromo-3-fluoro-pyridin-2-yl)-2,5-dimethyl-2-trifluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester
To a solution of (2R,5R)-5-(6-Bromo-3-fluoro-pyridin-2-yl)-2,5-dimethyl-2-trifluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-ylamine (100 mg, 0.27 mmol; CAS registry 1387561-18-3, WO 2012/095469) in DCM (2.7 ml) was added di-tert-butyl dicarbonate (62.7 μL, 0.270 mmol) followed by DIPEA (70.8 μL, 0.405 mmol). The reaction was stirred at rt for 18 h. The reaction mixture was diluted with DCM and washed with sat. aq. NaHCO3 solution and brine and dried with Na2SO4. The residue was purified by chromatography (silica gel; eluent: CyHex/EtOAc gradient) to afford the title compound.

reactant | (2R,5R)-5-(6-Bromo-3-fluoro-pyridin-2-yl)-2,5-dimethyl-2-trifluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-ylamine | 0.27 mmol, 100 mg | BrC1=CC=C(C(=N1)[C@]1(N=C([C@@](OC1)(C(F)(F)F)C)N)C)F | C12H12BrF4N3O
reactant | di-tert-butyl dicarbonate | 0.270 mmol, 62.7 μL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | DIPEA | 0.405 mmol, 70.8 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 2.7 ml | C(Cl)Cl | CH2Cl2
product | [(2R,5R)-5-(6-Bromo-3-fluoro-pyridin-2-yl)-2,5-dimethyl-2-trifluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1[C@@](OC[C@@](N1)(C)C1=NC(=CC=C1F)Br)(C(F)(F)F)C)=O | C17H20BrF4N3O3
